### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeAsymptotics/Multiseries): non-primitive corecursion for `Seq`: `FriendlyOperation` API

### PR DESCRIPTION
**Pull request by vasnesterov**
This is a continuation of #34311.

This PR adds more API about friendly operations:
* Basic friendly operations constructions
* `FriendlyOperation.destruct`: a "coinductive destructor" for `FriendlyOperation`

---

This is a part of the `compute_asymptotics` tactic (#28291).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 1]
```diff
@@ -286,4 +291,295 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    obtain ⟨hd, op', h_next⟩ := v
+    simp only [hT_head, Option.map_some, ← h_head] at hs ht
+    apply Stream'.Seq.destruct_eq_cons at hs
+    apply Stream'.Seq.destruct_eq_cons at ht
+    simp only [hs, ht, dist_cons_cons, pow_succ', inv_pos, Nat.ofNat_pos, mul_le_mul_iff_right₀,
+      ge_iff_le]
+    apply ih h_next
+    simpa [dist_eq_half_of_head h_head, pow_succ'] using hn
+
+/-- A generalisation of `FriendlyOperation.coind` for that allows using `opf ∘ op'` in the tail
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
/-- A generalisation of `FriendlyOperation.coind` which allows using `opf ∘ op'` in the tail
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 2]
```diff
@@ -286,4 +291,295 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+        FriendlyOperation.comp opf''.prop opf'.prop, op'.prop⟩)
+  intro s
+  simp only [Function.comp_apply]
+  specialize hF s
+  generalize opf s = s' at *
+  cases s' with
+  | nil =>
+    symm at hF
+    simp at hF
+    simp [hF]
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: I'm surprise this doesn't get flagged by the linter. Would 't it be better to use `simp only`?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 3]
```diff
@@ -286,4 +291,295 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  rw [hT]
+  rfl
+
+/-- A generalisation of `Seq.eq_of_bisim'` for that allows using a friendly operation in the tail
+of the sequences. -/
+theorem FriendlyOperationClass.eq_of_bisim {s t : Seq α} {op : γ → Seq α → Seq α}
+    [FriendlyOperationClass op]
+    (motive : Seq α → Seq α → Prop)
+    (base : motive s t)
+    (step : ∀ s t, motive s t → (s = t) ∨
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: could you rename the local variables so that they dont shadow `s` and `t` above? makes it easier to read

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 4]
```diff
@@ -286,4 +291,295 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+      by_contra! h_hd
+      rw [hs, ht, dist_cons_cons_eq_one h_hd] at h
+      norm_num at h
+
+/-- If the operation `op` is friendly, then there exists a function
+`T : Option α → Option (α × Subtype FriendlyOperation)` such that for all `s`,
+if `T s.head = none`, then `op s = nil`, and if `T s.head = some (hd, op')`,
+then `op s = cons hd (op' s.tail)`. One can see this as a coinductive definition
+of `FriendlyOperation`. For coinductive principle see `FriendlyOperation.coind`. -/
+theorem FriendlyOperation.destruct {op : Seq α → Seq α} (h : FriendlyOperation op) :
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: what's the advantage of using \exists over making this a `def`?

**Review by joneugster — COMMENTED** [review]
Thanks for the PR! I think the sequence of lemmas makes sense. Only a few comments

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean (hunk 4 above)
Comment (joneugster) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: 👍

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 5]
```diff
@@ -292,4 +297,299 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    FriendlyOperation op := by
+  let motive' (op : Seq α → Seq α) : Prop :=
+    ∃ opf op', op = op' ∘ opf ∧ FriendlyOperation opf ∧ motive op'
+  apply FriendlyOperation.coind motive'
+  · exact ⟨_root_.id, op, rfl, FriendlyOperation.id, h_base⟩
+  clear h_base op
+  rintro _ ⟨opf, op, rfl, h_opf, h_op⟩
+  specialize h_step _ h_op
+  obtain ⟨T, hT⟩ := h_step
+  -- obtain ⟨F, hF⟩ := FriendlyOperation.destruct h_opf
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
```

**Review by joneugster — APPROVED** [review]
Thank you for the PR and the applied suggestions.

maintainer merge

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 6]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
   have := (FriendlyOperation.exists_fixed_point F op).choose_spec b
   simpa [h] using this
 
+/-- The operation `cons hd ·` is friendly. -/
+theorem FriendlyOperation.cons (hd : α) : FriendlyOperation (cons hd) := by
+  simp only [FriendlyOperation, lipschitzWith_iff_dist_le_mul, dist_cons_cons, NNReal.coe_one,
+    one_mul]
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: This first step of unfolding `FriendlyOperation` and rewriting `[lipschitzWith_iff_dist_le_mul, NNReal.coe_one, one_mul]` comes back all the time, can you make a lemma called something like `friendlyOperation_iff`?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 7]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  specialize h (.cons hd x) (.cons hd y)
+  simp only [dist_cons_cons] at h
+  cases hx : op (.cons hd x) with
+  | nil =>
+    cases hy : op (.cons hd y) with
+    | nil => simp
+    | cons y_hd y_tl =>
+      contrapose! h
+      grw [hx, hy, dist_le_one]
+      norm_num
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: We don't need to contrapose, since `h` already is a contradiction.
```suggestion
      grw [hx, hy, dist_le_one x y] at h
      norm_num at h
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 8]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  | cons x_hd x_tl =>
+    cases hy : op (.cons hd y) with
+    | nil =>
+      contrapose! h
+      grw [hx, hy, dist_le_one]
+      norm_num
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
      grw [hx, hy, dist_le_one x y] at h
      norm_num at h
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 9]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  linarith [dist_nonneg (x := x) (y := y)]
+
+/-- The operation `(op (.cons hd ·)).tail` is friendly if `op` is friendly. -/
+theorem FriendlyOperation.cons_tail {op : Seq α → Seq α} {hd : α} (h : FriendlyOperation op) :
+    FriendlyOperation (fun s ↦ (op (.cons hd s)).tail) := by
+  simp_rw [FriendlyOperation, lipschitzWith_iff_dist_le_mul, NNReal.coe_one, one_mul] at h ⊢
+  intro x y
+  specialize h (.cons hd x) (.cons hd y)
+  simp only [dist_cons_cons] at h
+  cases hx : op (.cons hd x) with
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: I feel like the work starting here and going down is quite elementary and deserves to exist as own lemma, saying that two `Seq α` have distance less than `2⁻¹` iff they are either both `nil` or they are both `cons` with the same head. Something like `dist_le_half_iff_nil_or_head_eq`?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 10]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    | nil =>
+      contrapose! h
+      grw [hx, hy, dist_le_one]
+      norm_num
+    | cons y_hd y_tl =>
+      by_cases! h_hd : x_hd ≠ y_hd
+      · contrapose! h
+        grw [hx, hy, dist_cons_cons_eq_one h_hd, dist_le_one]
+        norm_num
+      simpa [hx, hy, h_hd] using h
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Minor proof style issue: I prefer `contrapose` over a `by_cases` followed by proving a contradiction .
```suggestion
      suffices h_hd : x_hd = y_hd by
        simpa [hx, hy, h_hd] using h
      contrapose! h with h_hd
      grw [hx, hy, dist_cons_cons_eq_one h_hd, dist_le_one]
      norm_num
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 11]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+/-- The first element of `op (a :: s)` depends only on `a`. -/
+theorem FriendlyOperation.op_cons_head_eq {op : Seq α → Seq α} (h : FriendlyOperation op) {a : α}
+    {s t : Seq α} : (op <| .cons a s).head = (op <| .cons a t).head := by
+  rw [FriendlyOperation, lipschitzWith_iff_dist_le_mul] at h
+  specialize h (.cons a s) (.cons a t)
+  simp only [NNReal.coe_one, dist_cons_cons, one_mul] at h
+  replace h : dist (op (.cons a s)) (op (.cons a t)) ≤ 2⁻¹ := by
+    apply h.trans
+    simp
+  cases hs : op (.cons a s) with
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Here we can also apply the lemma I described above to simplify the proof a lot.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 12]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+/-- Coinduction principle for proving that an operation is friendly. -/
+theorem FriendlyOperation.coind (motive : (Seq α → Seq α) → Prop)
+    {op : Seq α → Seq α}
+    (h_base : motive op)
+    (h_step : ∀ op, motive op → ∃ T : Option α → Option (α × Subtype motive),
+      ∀ s, (op s).destruct = (T s.head).map (fun (hd, op') => (hd, op'.val s.tail))) :
+    FriendlyOperation op := by
+  rw [FriendlyOperation, lipschitzWith_iff_dist_le_mul]
+  intro s t
+  simp only [NNReal.coe_one, one_mul]
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Another case where that `friendlyOperation_iff` lemma would help, if we rewrite:
```suggestion
  simp_rw [FriendlyOperation, lipschitzWith_iff_dist_le_mul, NNReal.coe_one, one_mul]
  intro s t
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 13]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+/-- If `op` is friendly, then `op s` and `op t` have the same head if `s` and `t`
+have the same head. -/
+theorem FriendlyOperation.op_head_eq {op : Seq α → Seq α} (h : FriendlyOperation op) {s t : Seq α}
+    (h_head : s.head = t.head) : (op s).head = (op t).head := by
+  simp only [head_eq_destruct, Option.map_eq_map, h.destruct_apply_eq_unfold, Option.map_map]
+    at h_head ⊢
+  simp [h_head]
+  rfl
+
+attribute [-simp] inv_pow in
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: This seems to do nothing:
```suggestion
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 14]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+theorem FriendlyOperation.coind (motive : (Seq α → Seq α) → Prop)
+    {op : Seq α → Seq α}
+    (h_base : motive op)
+    (h_step : ∀ op, motive op → ∃ T : Option α → Option (α × Subtype motive),
+      ∀ s, (op s).destruct = (T s.head).map (fun (hd, op') => (hd, op'.val s.tail))) :
+    FriendlyOperation op := by
+  rw [FriendlyOperation, lipschitzWith_iff_dist_le_mul]
+  intro s t
+  simp only [NNReal.coe_one, one_mul]
+  suffices ∀ n, dist s t ≤ (2⁻¹ : ℝ) ^ n → dist (op s) (op t) ≤ (2⁻¹ : ℝ) ^ n by
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: This seems like a useful lemma to extract (as a principle for showing an operation is friendly).

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 15]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    obtain ⟨n, hst⟩ := dist_eq_two_inv_pow h
+    rw [hst] at this ⊢
+    apply this
+    rfl
+  intro n hn
+  induction n generalizing op s t with
+  | zero => simp
+  | succ n ih =>
+  specialize h_step _ h_base
+  obtain ⟨T, hT⟩ := h_step
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
  obtain ⟨T, hT⟩ := h_step _ h_base
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 16]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  have hs := hT s
+  have ht := hT t
+  by_cases! h_head : s.head ≠ t.head
+  · contrapose! hn
+    norm_num [pow_succ, dist_eq_one_of_head h_head]
+    refine mul_lt_one_of_nonneg_of_lt_one_right (pow_le_one₀ ?_ ?_) ?_ ?_
+    all_goals norm_num
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Here we can also replace a case split with a claim that we then prove:

```suggestion
  have h_head : s.head = t.head := by
    contrapose! hn with h_head
    norm_num [pow_succ, dist_eq_one_of_head h_head]
    refine mul_lt_one_of_nonneg_of_lt_one_right (pow_le_one₀ ?_ ?_) ?_ ?_
    all_goals norm_num
```

Comment (Vierkantor) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: The body of this proof should be its own lemma, that can then be used to prove `dist_le_half_iff_nil_or_head_eq`.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 17]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    simp [hs,destruct_eq_none, ht]
+  | some v =>
+    obtain ⟨hd, op', h_next⟩ := v
+    simp only [hT_head, Option.map_some, ← h_head] at hs ht
+    apply Stream'.Seq.destruct_eq_cons at hs
+    apply Stream'.Seq.destruct_eq_cons at ht
+    simp only [hs, ht, dist_cons_cons, pow_succ', inv_pos, Nat.ofNat_pos, mul_le_mul_iff_right₀,
+      ge_iff_le]
+    apply ih h_next
+    simpa [dist_eq_half_of_head h_head, pow_succ'] using hn
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
  cases hT_head : T s.head with
  | none =>
    simp only [hT_head, Option.map_none, ← h_head] at hs ht
    simp [hs, ht, destruct_eq_none]
  | some v =>
    obtain ⟨hd, op', h_next⟩ := v
    simp only [hT_head, Option.map_some, ← h_head] at hs ht
    simp only [destruct_eq_cons hs, destruct_eq_cons ht, dist_cons_cons, pow_succ', inv_pos,
      Nat.ofNat_pos, mul_le_mul_iff_right₀, ge_iff_le]
    apply ih h_next
    simpa [dist_eq_half_of_head h_head, pow_succ'] using hn
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 18]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    apply this
+    rfl
+  intro n hn
+  induction n generalizing op s t with
+  | zero => simp
+  | succ n ih =>
+  specialize h_step _ h_base
+  obtain ⟨T, hT⟩ := h_step
+  have hs := hT s
+  have ht := hT t
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: We can move these `have`s to below the `have`, so it is clearer what we do by cases.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 19]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+      ∀ s, (op s).destruct = (T s.head).map fun (hd, opf, op') => (hd, opf.val <| op'.val s.tail)) :
+    FriendlyOperation op := by
+  let motive' (op : Seq α → Seq α) : Prop :=
+    ∃ opf op', op = opf ∘ op' ∧ FriendlyOperation opf ∧ motive op'
+  apply FriendlyOperation.coind motive'
+  · exact ⟨_root_.id, op, rfl, FriendlyOperation.id, h_base⟩
+  clear h_base op
+  rintro _ ⟨opf, op, rfl, h_opf, h_op⟩
+  specialize h_step _ h_op
+  obtain ⟨T, hT⟩ := h_step
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
  rintro _ ⟨opf, op, rfl, h_opf, h_op⟩
  obtain ⟨T, hT⟩ := h_step _ h_op
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 20]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+  simp only [destruct_apply_eq_unfold h_opf, Seq.tail_cons, Seq.head_cons]
+  generalize T s.head = t? at *
+  cases t? with
+  | none => simp at hT
+  | some v =>
+  obtain ⟨hd, opf', op'⟩ := v
+  simp at hT
+  simp [hT]
+  rfl
+
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: We should continue to indent the bottom case, for symmetry.
```suggestion
    simp only [destruct_cons] at hT
    simp only [destruct_apply_eq_unfold h_opf, Seq.tail_cons, Seq.head_cons]
    generalize T s.head = t? at *
    cases t? with
    | none => simp at hT
    | some v =>
      obtain ⟨hd, opf', op'⟩ := v
      simp at hT
      simp [hT]
      rfl
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 21]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    · apply ge_of_tendsto' (x := Filter.atTop) _ this
+      rw [tendsto_pow_atTop_nhds_zero_iff]
+      norm_num
+    · simp
+  intro n
+  induction n generalizing s t with
+  | zero => simp
+  | succ n ih =>
+    specialize step s t base
+    obtain step | ⟨hd, u, v, c, rfl, rfl, h_next⟩ := step
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
    obtain step | ⟨hd, u, v, c, rfl, rfl, h_next⟩ := step s t base
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 22]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    · simp [step]
+    simp only [dist_cons_cons]
+    specialize ih h_next
+    calc
+      _ ≤ 2⁻¹ * dist u v := by
+        gcongr
+        apply FriendlyOperation.dist_le
+        apply FriendlyOperationClass.friend
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
        exact (FriendlyOperationClass.friend _).dist_le
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 23]
```diff
@@ -292,4 +297,298 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+      (hd', ⟨_, opf''.val ∘ opf'.val, op'.val, rfl,
+        FriendlyOperation.comp opf''.prop opf'.prop, op'.prop⟩)
+  intro s
+  specialize hT s
+  simp only [Function.comp_apply]
+  generalize op s = s' at *
+  cases s' with
+  | nil =>
+    symm at hT
+    simp at hT
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: I see a lot of this working by cases in this file, where we specialize a lemma, do a case split, and then have to simplify the result. I wonder if we can't write a better cases / recursion principle.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean (hunk 9 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: I've added this lemma (`dist_le_half_iff`), but it's not clear for how to use it here.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean (hunk 23 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: I'm not sure I understand. A better cases principle for `Seq`?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 24]
```diff
@@ -291,4 +308,282 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    cases hy : op (.cons hd y) with
+    | nil =>
+      grw [hx, hy, dist_le_one x y] at h
+      norm_num at h
+    | cons y_hd y_tl =>
+      suffices h_hd : x_hd = y_hd by
+        simpa [hx, hy, h_hd] using h
+      contrapose! h with h_hd
+      grw [hx, hy, dist_cons_cons_eq_one h_hd, dist_le_one]
+      norm_num
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: We could just factor this part out into it's own lemma (move it somewhere appropriate):

(I didn't change anything about the proof besides replacing one `simp only` with a `rw`)

```suggestion
/--
If two sequences have the same head and applying `op` reduces their distance, then
it also reduces the distance of their tails.
-/
lemma _root_.Stream'.Seq.dist_const_tail_cons_tail_le
    {op : Stream'.Seq α → Stream'.Seq α} {hd : α} {x y : Stream'.Seq α}
    (h : dist (op (cons hd x)) (op (cons hd y)) ≤ dist (cons hd x) (cons hd y)) :
    dist (op (cons hd x)).tail (op (cons hd y)).tail ≤ dist x y := by
  rw [dist_cons_cons] at h -- replaced `simp only` with `rw` here
  cases hx : op (.cons hd x) with
  | nil =>
    cases hy : op (.cons hd y) with
    | nil => simp
    | cons y_hd y_tl =>
      grw [hx, hy, dist_le_one x y] at h
      norm_num at h
  | cons x_hd x_tl =>
    cases hy : op (.cons hd y) with
    | nil =>
      grw [hx, hy, dist_le_one x y] at h
      norm_num at h
    | cons y_hd y_tl =>
      suffices h_hd : x_hd = y_hd by
        simpa [hx, hy, h_hd] using h
      contrapose! h with h_hd
      grw [hx, hy, dist_cons_cons_eq_one h_hd, dist_le_one]
      norm_num

/-- The operation `(op (.cons hd ·)).tail` is friendly if `op` is friendly. -/
theorem FriendlyOperation.cons_tail {op : Seq α → Seq α} {hd : α} (h : FriendlyOperation op) :
    FriendlyOperation (fun s ↦ (op (.cons hd s)).tail) := by
  simp_rw [friendlyOperation_iff_dist_le_dist] at h ⊢
  intro x y
  specialize h (.cons hd x) (.cons hd y)
  exact dist_const_tail_cons_tail_le h
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 25]
```diff
@@ -291,4 +308,282 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+/-- Decomposes a friendly operation by the head of the input sequence. Returns `none` if the output
+is `nil`, or `some (out_hd, op')` where `out_hd` is the head of the output and `op'` is a friendly
+operation mapping the tail of the input to the tail of the output. See
+`destruct_apply_eq_unfold` for the correctness statement. -/
+def FriendlyOperation.unfold {op : Seq α → Seq α} (h : FriendlyOperation op) (hd? : Option α) :
+    Option (α × Subtype (@FriendlyOperation α)) :=
+  match hd? with
+  | none =>
+    let t := op nil
+    match t.destruct with
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
    match (op nil).destruct with
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 26]
```diff
@@ -291,4 +308,282 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    | none => none
+    | some (t_hd, t_tl) =>
+      some (t_hd, ⟨fun _ ↦ t_tl, FriendlyOperation.const⟩)
+  | some s_hd =>
+    let s := .cons s_hd nil
+    let t := op s
+    match t.destruct with
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
    match (op <| .cons s_hd nil).destruct with
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 27]
```diff
@@ -291,4 +308,282 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+theorem FriendlyOperation.of_dist_le_pow {op : Seq α → Seq α}
+    (h : ∀ s t n, dist s t ≤ (2⁻¹ : ℝ) ^ n → dist (op s) (op t) ≤ (2⁻¹ : ℝ) ^ n) :
+    FriendlyOperation op := by
+  rw [friendlyOperation_iff_dist_le_dist]
+  intro s t
+  by_cases hst : s = t
+  · simp [hst]
+  obtain ⟨n, hst⟩ := dist_eq_two_inv_pow hst
+  grind
+
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:416]: @vasnesterov to get some movement on merging your work, could I suggest that we split this PR here at this point (again)? I think everything above could be approved quite directly, while the remainder still contains some heavy, long proofs.

I doubt that a maintainer will get around looking at the entire PR, but if we split it here, I think we might improve the changes of getting some progress.

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:416]: Done. The second part is in #37342

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 28]
```diff
@@ -291,4 +308,126 @@ theorem gcorec_some {F : β → Option (α × γ × β)} {op : γ → Seq α →
...
+    cases hy : op (.cons hd y) with
+    | nil =>
+      grw [hx, hy, dist_le_one x y] at h
+      norm_num at h
+    | cons y_hd y_tl =>
+      suffices h_hd : x_hd = y_hd by
+        simpa [hx, hy, h_hd] using h
+      contrapose! h with h_hd
+      grw [hx, hy, dist_cons_cons_eq_one h_hd, dist_le_one]
+      norm_num
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Here's what I was thinking how to use `dist_le_half_iff`: we show using the first `rwa` it suffices to prove the heads are the same (either both `none` or both `some x`). Then `h` implies the distance is less or equal to a half, so we can conclude both sides have the same head.

```suggestion
  rwa [dist_cons_cons, dist_eq_half_of_head, mul_le_mul_iff_right₀ (by norm_num)] at h
  grw [dist_le_one x y, mul_one] at h
  obtain (⟨hx, hy⟩ | ⟨_, _, _, hx, hy⟩) := dist_le_half_iff.mp h <;> simp [hx, hy]
```

**Review by Vierkantor — APPROVED** [review]
Thanks for the split! I think this half is good to go now.

bors d+
